US06184242B2
To a solution of 4-(5-methoxythien-2-ylmethyl)-phenylamine (210 mg, 0.96 mmol) in isopropyl alcohol (20 ml) was added p-toluenesulfonic acid hydrate (460 mg, 2.4 mmol) under nitrogen. The mixture was heated at reflux for 24 hours and cooled to 20-25 00. 5% Sodium hydroxide was added, and the product was extracted with dichloromethane. The extract was dried (Na2SO4), and concentrated to dryness. Purification by preparative TLC, eluting with hexane/ethyl acetate, gave 4-(5-isopropoxythien-2-ylmethyl)-phenylamine (135 mg, 57%) as a pale yellow oil; 1HNMR (300 MHz, CDCl3) ι 7.02 (d,J=8.5 Hz, 2H), 6.63 (d,J=8.5 Hz, 2H), 6.34 (dt, J=3.7, 1.1 Hz, 1H), 6.01 (d,J=3.7, 1H), 4.26 (quintet, J=6.1 Hz, 1H), 3.88 (bs, 2H), 1.31 (d,J=6.1 Hz, 6H). MS m/e (%): 247 (M+; 58).

reactant | 4-(5-methoxythien-2-ylmethyl)-phenylamine | 0.96 mmol, 210 mg | COC1=CC=C(S1)CC1=CC=C(C=C1)N | C12H13NOS
reactant | p-toluenesulfonic acid hydrate | 2.4 mmol, 460 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | Sodium hydroxide | [OH-].[Na+]
solvent | isopropyl alcohol | 20 ml | C(C)(C)O | C3H8O
product | 4-(5-isopropoxythien-2-ylmethyl)-phenylamine | 135 mg, 57% | C(C)(C)OC1=CC=C(S1)CC1=CC=C(C=C1)N | C14H17NOS
